US06348474B1
7-Carboxy-1-(2,4-dichlorobenzyl)-3-methyl-2(1H)-quinoxalinone
1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-3-methyl-2(1H)-quinoxalinone (0.50 g) in a mixture of a 5% aqueous sodium hydroxide solution (3 g) and methanol (20 ml) was heated under reflux for 1 hr. After cooling, concentrated hydrochloric acid (4 ml) and water (10 ml) were added to the reaction mixture and the precipitate was collected by filtration. The precipitate was washed with water (30 g) and dried to give the object compound (0.36 g) as yellow crystals.

reactant | 1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-3-methyl-2(1H)-quinoxalinone | 0.50 g | ClC1=C(CN2C(C(=NC3=CC=C(C=C23)C(=O)OCC)C)=O)C=CC(=C1)Cl | C19H16Cl2N2O3
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 7-Carboxy-1-(2,4-dichlorobenzyl)-3-methyl-2(1H)-quinoxalinone | 0.36 g | C(=O)(O)C1=CC=C2N=C(C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)=O)C | C17H12Cl2N2O3
